*  LM3886
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.    
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH (R) Design Center, Texas Instruments Inc.
* Date:             2012-02-28
* Model Type:       ALL IN ONE
* Simulator:        PSPICE
* Simulator Version: 16.2.0.p001
* Datasheet:        October 2003 (SNAS091B)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A
* Model Version:    1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* Notes:
* The LM3886 Macro Model represents the following parameters for 
* split-supply operation (+/-28V):
* GBWP, input-referred voltage noise, the quiescent current, 
* output swing, input offset voltage, input bias current, PSRR,  
* CMRR, and the slew rate.
*
* For any convergence problems, it is suggested to set the following 
* simulation options:
* VNTOL:   10u
* ABSTOL:  10n
* ITL1:   1000
* ITL2:    400
* ITL4:    400
*****************************************************************************
*$
.SUBCKT LM3886 INP INN VCC VEE GND OUT MUTE
*
V_Vos          INP2       INP_CMRR  -1056uVdc
R_Rinp         INP        INP1       1  
R_Rinn         INN        INN1       1  
C_Cinp         GND        INP1       200f   
C_Cinn         GND        INN1       200f   
E_E1           VCC_BUF    GND        VCC    GND  1
E_E2           VEE_BUF    GND        VEE    GND  1
R_RMUTE        VCC        MUTE       1e6  
X_UIcc         VCC        VEE        MUTE VIMON GND  INP2 INN1 HPA_PD_I 
+  PARAMS:     VTH=1.4I   IMAX=50e-3  IMIN=0.444e-3 IIBP=210n IIBN=200n
G_G1           GND        N2B        INP_CMRR   GND  3.2u
E_Ecmrr        INN2       INN3       N2B        GND  1
R_Rcmr         N2B        N2         1  
L_Lcmr         N2         GND        560nH  
G_G2           GND        N1B        VCC_BUF    VEE_BUF 1u
L_Lpsr         N1         GND        2uH  
R_Rpsr         N1B        N1         1  
X_Upsrr        N1B        GND        INN1     INN2 VCVS_LIMIT 
+  PARAMS:     GAIN=-1    VPOS=20M   VNEG=-20M
X_Uvn          INP1       INP2       vnse 
*
V_V1           VCC        N3         3.59Vdc
V_V4           N4         VEE        3.59Vdc
X_Ud2          INN3       N3         d_ideal 
X_Ud1          INP_CMRR   N3         d_ideal 
X_Ud3          N4         INP_CMRR   d_ideal 
X_Ud4          N4         INN3       d_ideal 
*
X_Ug0          INP_CMRR   INN3       GND   AV1        VCCS_LIMIT 
+  PARAMS:     GAIN=10e-6 IPOS=0.5   INEG=-0.5
X_Ug4          AV1        GND        GND   OVER_CLAMP VCCS_LIMIT 
+  PARAMS:     GAIN=26.5u IPOS=111u  INEG=-108.1u
GRU1           GND        AV1        VALUE={V(GND ,AV1       )/1e6}
GRU2           GND        OVER_CLAMP VALUE={V(GND, OVER_CLAMP)/2.1e9}
C_Cc1          GND        OVER_CLAMP 5.3p   
C_Cc2          P0ZP1      GND        5e-15   
C_Cc3          CLAW_CLAMP GND        995f   
*
X_UIout        VCC        VEE        VIMON      GND  TRAN_IOUT
G_G3           GND        VSENSE     OVER_CLAMP GND  1u
G_G4           GND        P0Z        VSENSE     GND  1u
G_G5           GND        P0ZP1      P0Z        GND  1u
G_G6           GND        CLAW_CLAMP P0ZP1      GND  1m
G_G7           GND        CL_CLAMP   CLAW_CLAMP GND  1m
GRU3           VSENSE     GND        VALUE={V(VSENSE,GND)/1e6}
GRU5           GND        P0Z        VALUE={V(GND,   P0Z)/1e6}
GRU6           P0ZP1      GND        VALUE={V(P0ZP1, GND)/1e6}
GRU7           CLAW_CLAMP GND        VALUE={V(CLAW_CLAMP,GND)/1e3}
GRU8           CL_CLAMP   GND        VALUE={V(CL_CLAMP,  GND)  /1e3}
*
X_UpwrDn       CL_CLAMP   GND        MUTE   N90  GND  VCC VEE HPA_PD_SGNL 
*X_Uthd        N90        GND        VCLP   GND  EPOLY1
*

XVoclp         VCC        VEE        N90    N94  Vimon1 GND  VCLAMP_W_SENSE_0
+ PARAMS:      VMAXIO=1.55 VMINIO=2.45 SLOPE=0
XIoclp         VCLP       N94        RNOISE_LESS_WILIM_0
+ PARAMS:      RX=0.01    IMAX=11.5  IMIN=-11.5
XUA            VCLP       Uz_VZO_4   Vimon1 GND  AMETER_0
*
X_Uz_H1        Uz_VZO_4   OUT        VIMON GND  Zout_Uz_H1 
E_Uz_E1        Uz_VZO_2   GND        Uz_VZO_1   Uz_VZO_4 -1
R_Uz_Ra        Uz_N106    Uz_VZO_4   10  
R_Uz_Rb        Uz_N104    Uz_VZO_4   10  
R_Uz_Rm        Uz_VZO_3   Uz_VZO_4   10  
X_Uz_S1        N92        GND        Uz_N106   Uz_VZO_3 Zout_Uz_S1 
X_Uz_S2        N92        GND        Uz_N104   Uz_VZO_3 Zout_Uz_S2 
GRUz_Rg1       GND        Uz_N100    VALUE={V(GND     ,Uz_N100)/10e6}
GRUz_Rf1       Uz_N100    Uz_VZO_1   VALUE={V(Uz_N100 ,Uz_VZO_1)/10e6}
GRUz_Rg2       Uz_VZO_2   Uz_N102    VALUE={V(Uz_VZO_2,Uz_N102 )/1e6}
GRUz_Rf2       Uz_N102    Uz_VZO_3   VALUE={V(Uz_N102 ,Uz_VZO_3)/1e6}
X_Uz_Uamp1     VCLP       Uz_N100    Uz_VZO_1,GND  VCVS_LIMIT 
+  PARAMS:     GAIN=1e6   VPOS=6e4   VNEG=-6e4
X_Uz_Uamp2     GND        Uz_N102    Uz_VZO_3   GND  VCVS_LIMIT 
+  PARAMS:     GAIN=1e6V  VPOS=6e4   VNEG=-6e4
*
.ENDS LM3886
*$
*
.subckt Zout_Uz_S1 1 2 3 4  
S_Uz_S1         3 4 1 2 _Uz_S1
RS_Uz_S1         1 2 1G
.MODEL         _Uz_S1 VSWITCH Roff=10e6 Ron=1.0 Voff=-0.1V Von=0.1V
.ends Zout_Uz_S1
*$
.subckt Zout_Uz_S2 1 2 3 4  
S_Uz_S2         3 4 1 2 _Uz_S2
RS_Uz_S2         1 2 1G
.MODEL         _Uz_S2 VSWITCH Roff=10e6 Ron=1.0 Voff=0.1V Von=-0.1V
.ends Zout_Uz_S2
*$
.subckt Zout_Uz_H1 1 2 3 4  
H_Uz_H1         3 4 VH_Uz_H1 1e3
VH_Uz_H1         1 2 0V
.ends Zout_Uz_H1
*
*$
.subckt rnoiseless a b PARAMS: R=1k
*H_H1 c b VH_H1 {R}
*VH_H1 a c 0
ERES a 3 VALUE = { I(VSENSE) * R }
Rdummy 30 3 1
VSENSE 30 b DC 0V
.ends
*$
*
.SUBCKT EPOLY1 1 2 3 4  PARAMS: Coeff1=0.0  Coeff2=0.0
*For distortion purpose
*EINT 3 4 POLY(1) (1,2) (0 1 Coeff1 Coeff2)
EINT 3 4 POLY(1) (1,2) (0 1 0 0)
.ENDS EPOLY1 
*$
*
.subckt D_ideal A C
D1 A C DNOM
.MODEL DNOM D (IS=1e-16 RS=1e-3 N=1e-3)
.ENDS D_ideal
*
*$
.subckt VCCS_Limit VCP VCN IOUTP IOUTN PARAMS: Gain = 1.7e-3
+ Ipos = 0.100 Ineg = -0.165
G1 IOUTP IOUTN VALUE={LIMIT(Gain*V(VCP,VCN),Ipos,Ineg)}
.ends VCCS_Limit
*
*$
.subckt VCVS_Limit VCP VCN VOUTP VOUTN PARAMS: Gain = -1
+ Vpos = 20m Vneg = -20m
E1 VOUTP VOUTN VALUE={LIMIT(Gain*V(VCP,VCN),Vpos,Vneg)}
.ends VCVS_Limit
*$
*
.SUBCKT VNSE 1 2 
**************************
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* NLF - NV/RHZ AT (1/F) FREQ
* FLW - FREQ FOR (1/F) VAL
* NVR - NV/RHZ FLATBAND
**************************
* START CALC VALS
.PARAM NLF=20.2
.PARAM FLW=1 
.PARAM NVR=1.99
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
GR3 3 6 3 6 1E-9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS VNSE
*$
*
.SUBCKT HPA_PD_I VCC VEE PD Vimon AGND Ninp Ninn PARAMS: Vth = 1.4 Imax = 1e-3  Imin = 3n 
+       IIBP= 0.55u  IIBN= 0.56u
*GBIAS    VCC  VEE    VALUE = {IF(V(PD)   >= (V(VEE)+Vth),Imax,Imin)}
GBIAS     VCC  VEE    VALUE = {IF(V(PD)   >= V(VCC),Imax,Imin)}
Ebuf      VDD  0      VCC  0   1
Ginp      VDD  Ninp   VALUE = {IF(V(PD)   >= V(VCC),IIBP,0)}
Ginn      VDD  Ninn   VALUE = {IF(V(PD)   >= V(VCC),IIBN,0)}
.ENDS
*$
*
.SUBCKT HPA_PD_Sgnl  CP  CN  DIS  VP  VN  VCC VEE PARAMS:  GAIN = 1
EVCVS  VP  VN  VALUE = {IF(V(DIS,VEE) >= 1.4,V(CP,CN)*GAIN,0)}
.ENDS HPA_PD_Sgnl
*$
*
.SUBCKT Tran_Iout VCC VEE VIMON AGND 
X_Siq1         N1 GND_FLOAT VIMON N2 Amp_Dyn_Iout_Siq1 
X_Siq2         N1 GND_FLOAT VIMON N3 Amp_Dyn_Iout_Siq2 
C_Ciq1         N1 GND_FLOAT  10e-12  TC=0,0 
R_Riq1         N1 VIMON      10      TC=0,0 
R_Riq2         N2 GND_FLOAT  10e3    TC=0,0 
R_Riq3         GND_FLOAT N3  10e3    TC=0,0 
G_Gsourcing    VCC GND_FLOAT N3 GND_FLOAT 0.001
G_Gsinking     VEE GND_FLOAT N2 GND_FLOAT 0.001
.ENDS Tran_Iout
*$
.subckt Amp_Dyn_Iout_Siq1 1 2 3 4  
S_Siq1         3 4 1 2 _Siq1
RS_Siq1        1 2 1G
.MODEL        _Siq1 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=-0.10V
.ends Amp_Dyn_Iout_Siq1
*$
*
.subckt Amp_Dyn_Iout_Siq2 1 2 3 4  
S_Siq2         3 4 1 2 _Siq2
RS_Siq2        1 2 1G
.MODEL        _Siq2 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=0.10V
.ends Amp_Dyn_Iout_Siq2
*$
*
.SUBCKT VCLAMP_W_SENSE_0   VCC  VEE  VI  VO VIMON  GNDF
+ PARAMS: VMAXIO = 0.1 VMINIO = 0.1 SLOPE = 0
EPCLIP  VCC_CLP 0   VALUE = {V(VCC,GNDF) - SLOPE*V(VIMON,GNDF) - VMAXIO}
ENCLIP  VEE_CLP 0   VALUE = {V(VEE,GNDF) - SLOPE*V(VIMON,GNDF) + VMINIO}
ECLAMP  VO     GNDF VALUE = {LIMIT(V(VI,GNDF), V(VCC_CLP), V(VEE_CLP))}
.ENDS
*
*$
.SUBCKT RNOISE_LESS_WILIM_0   P  N  PARAMS: RX = 1E-3  IMAX = 1M  IMIN = -1M
GRES  P N VALUE = {LIMIT(V(P,N)/RX, IMAX, IMIN)}
.ENDS
*
*$
.SUBCKT AMETER_0   VI  VO VIMON GNDF
+ PARAMS: GAIN = 1
VSENSE VI    VO1  DC = 0
R1     VO1   VO   1e-3
R2     VO1   VO   1e-3
R3     VO1   VO   1e-3
R4     VO1   VO   1e-3
EMETER VIMON GNDF VALUE = {I(VSENSE)*GAIN}
.ENDS
*
*$
